### PR TITLE
[Merged by Bors] - feat: port Data.Multiset.Antidiagonal

### PR DESCRIPTION
**Pull request by maxwell-thum**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Multiset/Antidiagonal.lean [hunk 1]
```diff
@@ -0,0 +1,127 @@
...
+  · simp only [antidiagonal_zero, powerset_zero, zero_tsub, map_singleton]
+  · simp_rw [antidiagonal_cons, powerset_cons, map_add, hs, map_map, Function.comp, Prod.map_mk,
+      id.def, sub_cons, erase_cons_head]
+    rw [add_comm]
+    congr 1
+    refine' Multiset.map_congr rfl fun x hx ↦ _
+    rw [cons_sub_of_le _ (mem_powerset.mp hx)]
+#align multiset.antidiagonal_eq_map_powerset Multiset.antidiagonal_eq_map_powerset
+
+-- Porting note: Unnecessary `have` commented out to satisfy linter
```
Comment (jcommelin) [inline Mathlib/Data/Multiset/Antidiagonal.lean:106]:
```suggestion
```
In this case, we can just remove the `have`. It's probably just a remnant of proof-writing, where the proof wasn't properly cleaned up.

File: Mathlib/Data/Multiset/Antidiagonal.lean [hunk 2]
```diff
@@ -0,0 +1,127 @@
...
+#align multiset.card_antidiagonal Multiset.card_antidiagonal
+
+theorem prod_map_add [CommSemiring β] {s : Multiset α} {f g : α → β} :
+    prod (s.map fun a ↦ f a + g a) =
+      sum ((antidiagonal s).map fun p ↦ (p.1.map f).prod * (p.2.map g).prod) :=
+  by
+  refine' s.induction_on _ _
+  · simp
+  · intro a s ih
+    --have := @sum_map_mul_left α β _
```
Comment (jcommelin) [inline Mathlib/Data/Multiset/Antidiagonal.lean:121]:
```suggestion
```

File: Mathlib/Data/Multiset/Antidiagonal.lean [hunk 3]
```diff
@@ -37,80 +37,91 @@ theorem antidiagonal_coe (l : List α) : @antidiagonal α l = revzip (powersetAu
...
 @[simp]
 theorem mem_antidiagonal {s : Multiset α} {x : Multiset α × Multiset α} :
     x ∈ antidiagonal s ↔ x.1 + x.2 = s :=
-  (Quotient.induction_on s) fun l => by
-    simp [antidiagonal_coe]; refine' ⟨fun h => revzip_powerset_aux h, fun h => _⟩
+  Quotient.inductionOn s <| fun l ↦ by
+    dsimp [antidiagonal_coe]; refine' ⟨fun h => revzip_powersetAux h, fun h ↦ _⟩
     haveI := Classical.decEq α
-    simp [revzip_powerset_aux_lemma l revzip_powerset_aux, h.symm]
+    simp [revzip_powersetAux_lemma l revzip_powersetAux, h.symm]
```
Comment (jcommelin) [inline Mathlib/Data/Multiset/Antidiagonal.lean:56]: Please replace the `simp`s with the output of `simp?`. That should have already been done in mathlib3.

Comment (maxwell-thum) [reply Mathlib/Data/Multiset/Antidiagonal.lean]: For every `simp` in the file or just those?

Comment (jcommelin) [reply Mathlib/Data/Multiset/Antidiagonal.lean]: Just these two. But in general, we should try to avoid non-terminal simps.
See https://leanprover-community.github.io/glossary.html#non-terminal-simp

File: Mathlib/Data/Multiset/Antidiagonal.lean [hunk 4]
```diff
@@ -0,0 +1,127 @@
...
+theorem antidiagonal_map_snd (s : Multiset α) : (antidiagonal s).map Prod.snd = powerset s :=
+  Quotient.inductionOn s <| fun l ↦ by simp [powersetAux']
+#align multiset.antidiagonal_map_snd Multiset.antidiagonal_map_snd
+
+/- Porting note: I changed `@antidiagonal` to `@antidiagonal.{u_1}` because otherwise I got
+`Multiset.antidiagonal_zero.{u_2, u_1} {α : Type (max u_1 u_2)} : ...`, which gave me issues
+and triggered the linter. -/
+@[simp]
+theorem antidiagonal_zero : @antidiagonal.{u_1} α 0 = {(0, 0)} :=
+  rfl
```
Comment (jcommelin) [inline Mathlib/Data/Multiset/Antidiagonal.lean:78]: This is weird. I don't know what's going on, but it would be good to understand this better, I think.

cc @digama0

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
